US06987194B2
Step F Synthesis of 3,5-dichloro-4-(4-hydroxybutoxy)phenol as an Intermediate
This compound was prepared in a manner analogous to that of Step A of this example, using 12.2 grams (0.036 mole) of 4-[2,6-dichloro-4-(phenylmethoxy)phenoxy]butan-1-ol and 0.5 gram (catalyst) of 10% palladium on carbon and a theoretical amount of hydrogen gas in a Parr Hydrogenator. The yield of the subject compound was 9.3 grams. The NMR spectrum was consistent with the proposed structure.

reactant | 4-[2,6-dichloro-4-(phenylmethoxy)phenoxy]butan-1-ol | 0.036 mole, 12.2 grams | ClC1=C(OCCCCO)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C17H18Cl2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.5 gram | [Pd] | Pd
product | 3,5-dichloro-4-(4-hydroxybutoxy)phenol | ClC=1C=C(C=C(C1OCCCCO)Cl)O | C10H12Cl2O3
